* source RCL_METER
X_X1         0 N03235 QZS10MEG
R_R1         0 N03235  120k TC=0,0 
R_R2         N03235 N03440  90k TC=0,0 
C_C1         N02987 N03235  180p  TC=0,0 
C_C2         0 N02987  180p  TC=0,0 
R_R3         0 N02987  6k TC=0,0 
Q_Q1         N03440 N03235 N02987 Qbreakn 
V_V1         N03440 0 12
